US07645760B2
a) 7-Methyl-6-nitroquinoline
4-Acetamido-2-methylnitrobenzene (4.5 g; 23.2 mmol) glycerol (9 g; 100 mmol), H2SO4 conc (6.75 g) and As2O5.5H2O (3.6 g; 46.4 mmol) were heated at 130° C. for 20 h. The reaction mixture was poured on water, adjusted to pH 7-8 by adding NH3conc. and extracted with EtOAc three times. The combined organic phases were dried over Na2SO4, evaporated and purified via chromatography (SiO2; TBME/hexanes 70/30) to yield the title compound (1.5 g; 34%). The isomeric 5-methyl-6-nitroquinoline was eluted from the column after the title compound (850 mg; 19%).

reactant | 4-Acetamido-2-methylnitrobenzene | 23.2 mmol, 4.5 g | C(C)(=O)NC1=CC(=C(C=C1)[N+](=O)[O-])C | C9H10N2O3
reactant | glycerol | 100 mmol, 9 g | OCC(O)CO | C3H8O3
reactant | H2SO4 | 6.75 g | OS(=O)(=O)O | H2O4S
product | 7-Methyl-6-nitroquinoline | 1.5 g, 34% | CC1=C(C=C2C=CC=NC2=C1)[N+](=O)[O-] | C10H8N2O2
